US07291635B2
A solution of the title J compound, 3-(3-benzyloxy-4-nitro-benzyl)-3,4-dihydro-1H-benzo[1,4]diazepine-2,5-dione (196 mg, 0.47 mmol) in EtOAc-methanol (1:1, 44 mL) is hydrogenated over platinum oxide (22 mg) at atmospheric pressure for 1 h. The catalyst is filtered off and the filtrate is evaporated to dryness to give 3-(4-amino-3-benzyloxy-benzyl)-3,4-dihydro-1H-benzo[1,4]diazepine-2,5-dione as a foam: [M+1]+=388.

reactant | 3-(3-benzyloxy-4-nitro-benzyl)-3,4-dihydro-1H-benzo[1,4]diazepine-2,5-dione | 0.47 mmol, 196 mg | C(C1=CC=CC=C1)OC=1C=C(CC2C(NC3=C(C(N2)=O)C=CC=C3)=O)C=CC1[N+](=O)[O-] | C23H19N3O5
solvent | EtOAc methanol | 44 mL | CCOC(=O)C.CO
catalyst | platinum oxide | 22 mg | [Pt]=O
product | 3-(4-amino-3-benzyloxy-benzyl)-3,4-dihydro-1H-benzo[1,4]diazepine-2,5-dione | NC1=C(C=C(CC2C(NC3=C(C(N2)=O)C=CC=C3)=O)C=C1)OCC1=CC=CC=C1 | C23H21N3O3
